*$
* INA1620
*****************************************************************************
* (C) Copyright 2018 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA1620
* Date: 04JAN2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS859B –MARCH 2018–REVISED JULY 2018
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* VOS drift feature is added
* Added Unique subckt name, removed Claw ABS. 
*
* Final 1.0 
* Release to Web.
*
****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos) 
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (Vos Drift)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt INA1620 IN+_A IN-_A OUT_A IN+_B IN-_B OUT_B VCC VEE R1A R1B R1C R2A R2B R2C R3A R3B R3C R4A R4B R4C
******************************************************
.model R_NOISELESS RES(T_ABS=-273.15)
XU1 N003 N001 VCC VEE OUT_A OPA_INA1620
XU2 N004 N002 VCC VEE OUT_B OPA_INA1620
R1 R1B R1A R_NOISELESS 1e3
R2 R1B R1C R_NOISELESS 1000.04
R3 R2B R2A R_NOISELESS 1000.04
R4 R2B R2C R_NOISELESS 1e3
R5 R3B R3A R_NOISELESS 1e3
R6 R3B R3C R_NOISELESS 1000.04
R7 R4B R4A R_NOISELESS 1000.04
R8 R4B R4C R_NOISELESS 1e3
R9 N001 IN-_A R_NOISELESS 50
R10 N003 IN+_A R_NOISELESS 50
C1 N001 N003 0.5e-12
C2 VEE N001 5e-12
C3 N003 VEE 5e-12
R11 N002 IN-_B R_NOISELESS 50
R12 N004 IN+_B R_NOISELESS 50
C4 N002 N004 0.5e-12
C5 VEE N002 5e-12
C6 N004 VEE 5e-12
.ends INA1620 
*
.subckt OPA_INA1620 IN+ IN- VCC VEE OUT
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=650e-3)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=500e-3 Voff=450e-3)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=10e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
XV_OS N040 N042 VOS_DRIFT_INA1620
R1 N037 N041 R_NOISELESS 1e-3 
R2 N048 ESDn R_NOISELESS 1e-3 
R3 N067 0 R_NOISELESS 1e9 
C1 N067 0 1
R4 VCC_B N066 R_NOISELESS 1e-3 
C2 N066 0 1e-15
C3 N068 0 1e-15
R5 N068 VEE_B R_NOISELESS 1e-3 
G1 N037 N038 N005 N020 1e-3
R6 MID N046 R_NOISELESS 1e9 
VCM_MIN N047 VEE_B 1.5
R7 N047 MID R_NOISELESS 1e9 
VCM_MAX N046 VCC_B -1
XVCM_CLAMP N038 MID N043 MID N046 N047 VCCS_EXT_LIM_INA1620
R8 N043 MID R_NOISELESS 1 
C4 N044 MID 1e-15
R9 N043 N044 R_NOISELESS 1e-3 
V4 N064 OUT 0
R10 MID N049 R_NOISELESS 1e9 
R11 MID N050 R_NOISELESS 1e9 
XIQp VIMON MID VCC MID VCCS_LIM_IQ_INA1620
XIQn MID VIMON MID VEE VCCS_LIM_IQ_INA1620
R12 VCC_B N013 R_NOISELESS 1e3 
R13 N028 VEE_B R_NOISELESS 1e3 
XCLAWp VIMON MID N013 VCC_B VCCS_LIM_CLAWp_INA1620
XCLAWn MID VIMON VEE_B N028 VCCS_LIM_CLAWn_INA1620
R14 VEE_CLP MID R_NOISELESS 1e3 
R15 MID VCC_CLP R_NOISELESS 1e3 
R16 N014 N013 R_NOISELESS 1e-3 
R17 N029 N028 R_NOISELESS 1e-3 
C5 MID N014 1e-15
C6 N029 MID 1e-15
R18 VOUT_S N050 R_NOISELESS 100 
C7 VOUT_S MID 1e-9
G2 MID VCC_CLP N014 MID 1e-3
G3 MID VEE_CLP N029 MID 1e-3
XCL_AMP N011 N036 VIMON MID N017 N026 CLAMP_AMP_LO_INA1620
V_ISCp N011 MID 140
V_ISCn N036 MID -130
XOL_SENSE_INA1620 MID N071 N070 N073 OL_SENSE_INA1620
R19 N036 MID R_NOISELESS 1e9 
R20 N026 MID R_NOISELESS 1 
C8 N027 MID 1e-15
R21 MID N017 R_NOISELESS 1 
R22 MID N011 R_NOISELESS 1e9 
C9 MID N018 1e-15
XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID N015 N024 CLAMP_AMP_LO_INA1620
R23 VEE_CLP MID R_NOISELESS 1e9 
R24 N024 MID R_NOISELESS 1 
C10 N025 MID 1e-15
R25 MID N015 R_NOISELESS 1 
R26 MID VCC_CLP R_NOISELESS 1e9 
C11 MID N016 1e-15
XCL_SRC N018 N027 CL_CLAMP MID VCCS_LIM_4_INA1620
XCLAW_SRC N016 N025 CLAW_CLAMP MID VCCS_LIM_3_INA1620
R27 N015 N016 R_NOISELESS 1e-3 
R28 N025 N024 R_NOISELESS 1e-3 
R29 N017 N018 R_NOISELESS 1e-3 
R30 N027 N026 R_NOISELESS 1e-3 
R31 N071 MID R_NOISELESS 1 
R32 N071 SW_OL R_NOISELESS 100 
C12 SW_OL MID 1e-12
R33 VIMON N049 R_NOISELESS 100 
C13 VIMON MID 1e-9
C_DIFF ESDp ESDn 0.8e-12
C_CMn ESDn MID 0.9e-12
C_CMp MID ESDp 0.9e-12
I_Q VCC VEE 2.6e-3
I_B N042 MID 1.2e-6
I_OS ESDn MID 1.19e-6
R34 IN+ ESDp R_NOISELESS 10e-3 
R35 IN- ESDn R_NOISELESS 10e-3 
R36 N034 MID R_NOISELESS 1 
R37 N039 MID R_NOISELESS 1e9 
R38 MID N022 R_NOISELESS 1 
R39 MID N012 R_NOISELESS 1e9 
XGR_AMP N012 N039 N021 MID N022 N034 CLAMP_AMP_HI_INA1620
XGR_SRC N023 N035 CLAMP MID VCCS_LIM_GR_INA1620
C17 MID N023 1e-15
C18 N035 MID 1e-15
V_GRn N039 MID -47
V_GRp N012 MID 47
R40 N022 N023 R_NOISELESS 1e-3 
R41 N035 N034 R_NOISELESS 1e-3 
R42 VSENSE N021 R_NOISELESS 1e-3 
C19 MID N021 1e-15
R43 MID VSENSE R_NOISELESS 1e3 
G5 N040 N041 N010 MID 1e-3
G8 MID CLAW_CLAMP N062 MID 1e-3
R45 MID CLAW_CLAMP R_NOISELESS 1e3 
G9 MID CL_CLAMP CLAW_CLAMP MID 1e-3
R46 MID CL_CLAMP R_NOISELESS 1e3 
R47 N074 VCLP R_NOISELESS 100 
C24 MID VCLP 1e-12
E4 N074 MID CL_CLAMP MID 1
E5 N050 MID OUT MID 1
H1 N049 MID V4 1e3
S1 N052 N051 SW_OL MID OL_SW
R52 MID ESDp R_NOISELESS 1e12 
R53 ESDn MID R_NOISELESS 1e12 
R58 N041 N040 R_NOISELESS 1e3 
R59 N066 N067 R_NOISELESS 1e6 
R60 N067 N068 R_NOISELESS 1e6 
R67 N038 N037 R_NOISELESS 1e3 
G15 MID VSENSE CLAMP MID 1e-3
V_ORp N033 VCLP 3
V_ORn N030 VCLP -3
V11 N031 OR_N 0
V12 N032 OR_P 0
H2 N069 MID V11 -1
H3 N072 MID V12 1
S2 VCC ESDn ESDn VCC ESD_SW
S3 VCC ESDp ESDp VCC ESD_SW
S4 ESDn VEE VEE ESDn ESD_SW
S5 ESDp VEE VEE ESDp ESD_SW
S6 VCC OUT OUT VCC ESD_SW
S7 OUT VEE VEE OUT ESD_SW
E1 MID 0 N067 0 1
G16 0 VCC_B VCC 0 1
G17 0 VEE_B VEE 0 1
R88 VCC_B 0 R_NOISELESS 1 
R89 VEE_B 0 R_NOISELESS 1 
S8 N032 CLAMP CLAMP N032 OR_SW
S9 CLAMP N031 N031 CLAMP OR_SW
Xe_n ESDp N042 VNSE_INA1620
Xi_nn ESDn MID FEMT_INA1620
Xi_np N042 MID FEMT_INA1620
Rx N064 N063 R_NOISELESS 5e3
Rdummy N064 MID R_NOISELESS 5e2
XVCCS_LIMIT_1 N044 N048 MID N045 VCCS_LIM_1_INA1620
XVCCS_LIMIT_2 N045 MID MID CLAMP VCCS_LIM_2_INA1620
R44 N045 MID R_NOISELESS 1e6 
R68 CLAMP MID R_NOISELESS 1e6 
C20 CLAMP MID 9.09e-9
G10 MID OR_N N030 MID 1
R73 OR_N MID R_NOISELESS 1 
G11 MID OR_P N033 MID 1
R74 OR_P MID R_NOISELESS 1 
R72 N070 N069 R_NOISELESS 100
R75 N072 N073 R_NOISELESS 100
C27 N070 MID 1e-12
C28 N073 MID 1e-12
XVCCS_LIM_ZO_INA1620 N060 MID MID N063 VCCS_LIM_ZO_INA1620
R76 N063 MID R_NOISELESS 1 
C14 N007 N006 5.31e-8
R48 N007 MID R_NOISELESS 3e-1
R49 N007 N006 R_NOISELESS 1e4
G12 MID N006 ESDp MID 1.46e-2
Rsrc1 N006 MID R_NOISELESS 1
C16 N020 N019 1.06e-11
R56 N020 MID R_NOISELESS 1.5e2
R57 N020 N019 R_NOISELESS 1e8
G14 MID N019 VEE_B MID 6.67e-2
Rsrc2 N019 MID R_NOISELESS 1
G18 MID N051 CL_CLAMP N064 4.5e2
Rdc2 N051 MID R_NOISELESS 1
R61 N051 N052 R_NOISELESS 1e4
R62 N052 MID R_NOISELESS 1e4
G19 MID N057 N052 MID 2
C21 N052 N051 1.59e-2
R63 N057 MID R_NOISELESS 1
R77 N057 N058 R_NOISELESS 7e4
R78 N058 N065 R_NOISELESS 1e4
C29 MID N065 3.98e-13
Gb1 MID N059 N058 MID 1
R79 N059 MID R_NOISELESS 1
R80 N059 N060 R_NOISELESS 1e4
R81 N060 MID R_NOISELESS 50.3
C30 N060 N059 3.18e-14
S10 ESDp ESDn ESDn ESDp BB_SW
S11 ESDn ESDp ESDp ESDn BB_SW
C26 N009 N008 5.31e-11
R65 N009 MID R_NOISELESS 309
R66 N009 N008 R_NOISELESS 1e4
G4 MID N008 N007 MID 1
Rsrc3 N008 MID R_NOISELESS 1
G6 MID N010 N009 MID 33.3
Rsrc5 N010 MID R_NOISELESS 1 
C32 N003 N004 1.77e-13
R70 N003 MID R_NOISELESS 5.15e4
R71 N003 N004 R_NOISELESS 1e8
G21 MID N004 VCC_B MID 1.86e-4
Rsrc6 N004 MID R_NOISELESS 1
C33 N001 N002 1.77e-13
R82 N001 MID R_NOISELESS 5.15e4
R86 N001 N002 R_NOISELESS 1e8
G22 MID N002 N003 MID 1
Rsrc7 N002 MID R_NOISELESS 1
G23 MID N005 N001 MID 1.94e3
Rsrc8 N005 MID R_NOISELESS 1
R83 N061 MID R_NOISELESS 1e6
C35 N061 MID 3.18e-13
G24 MID N061 VSENSE MID 1e-6
Rdc6 N053 MID R_NOISELESS 1
R84 N053 N054 R_NOISELESS 1e4
R85 N054 MID R_NOISELESS 23.053
G25 MID N055 N054 MID 434.783
C36 N054 N053 6.92e-12
R92 N055 MID R_NOISELESS 1
G26 MID N053 N061 MID 1
R93 N055 N056 R_NOISELESS 1e4
R94 N056 MID R_NOISELESS 1235.96
G27 MID N062 N056 MID 9.09091
C37 N056 N055 1.45e-13
R95 N062 MID R_NOISELESS 1
.ends 
*
.SUBCKT VOS_DRIFT_INA1620 VOS+ VOS-
.PARAM DC = 51.98e-6
.PARAM POL = -1
.PARAM DRIFT = 0.5E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
*
.subckt CLAMP_AMP_HI_INA1620 VC+ VC- VIN COM VO+ VO-
.param G=10
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_HI_INA1620
*
.subckt OL_SENSE_INA1620 1   2  3  4
GSW+ 1 2 Value = {IF((V(3,1)>10e-3 | V(4,1)>10e-3),1,0)}
.ends OL_SENSE_INA1620
*
.subckt FEMT_INA1620 1 2
.param FLWF=1
.param NLFF=7e3
.param NVRF=760
.param GLFF={PWR(FLWF,0.25)*NLFF/1164}
.param RNVF={1.184*PWR(NVRF,2)}
.model DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10e-3
I2 0 8 10e-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1e9
R2 3 0 1e9
R3 3 6 1e9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1e9
R7 4 0 1e9
G1 1 2 3 4 1e-6
.ends FEMT_INA1620
*
.subckt VCCS_EXT_LIM_INA1620 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends VCCS_EXT_LIM_INA1620
*
.subckt VCCS_LIM_3_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.094
.param Ineg = -0.093
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_3_INA1620
*
.subckt VCCS_LIM_4_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.188
.param Ineg = -0.186
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_4_INA1620
*
.subckt VCCS_LIM_CLAWp_INA1620 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 6.6778e-4)
+(102.85, 1.73e-3)
+(130.2, 2e-3)
+(133.8, 2.03e-3)
+(136, 2.09e-3)
+(138.6, 2.44e-3)
+(140, 3.2e-3)
+(141, 5.07e-3)
+(142.12, 9.96e-3)
+(144.4, 1.74e-2)
.ends VCCS_LIM_CLAWp_INA1620
*
.subckt VCCS_LIM_CLAWn_INA1620 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 6.019e-4)
+(42.2, 1.25e-3)
+(84.4, 1.61e-3)
+(126.68, 1.96e-3)
+(128.6, 2.12e-3)
+(129.3, 2.4e-3)
+(129.77, 3.83e-3)
+(132.62, 1.78e-2)
.ends VCCS_LIM_CLAWn_INA1620
*
.subckt VCCS_LIM_IQ_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT+ IOUT- VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends VCCS_LIM_IQ_INA1620
*
.subckt VNSE_INA1620 1 2
.param FLW=1
.param NLF=32.1
.param NVR=2.5
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends VNSE_INA1620
*
.subckt CLAMP_AMP_LO_INA1620 VC+ VC- VIN COM VO+ VO-
.param G=1
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends CLAMP_AMP_LO_INA1620
*
.subckt VCCS_LIM_GR_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.22
.param Ineg = -0.22
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_GR_INA1620
*
.subckt VCCS_LIM_1_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_1_INA1620
*
.subckt VCCS_LIM_2_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 0.0202
.param Ipos = .11
.param Ineg = -.11
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_2_INA1620
*
.subckt VCCS_LIM_ZO_INA1620 VC+ VC- IOUT+ IOUT-
.param Gain = 2e2
.param Ipos = 1.4e3
.param Ineg = -1.3e3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends VCCS_LIM_ZO_INA1620
*
